US07605118B2
At −50° C., a solution of 3-bromo-cyclooctene (4.2 g, 22 mmol; prepared by reaction of cyclooctene with N-bromosuccinimide) and titanium(IV)isopropoxide (7.2 ml, 24 mmol, 1.1 eq.) in diethyl ether (100 ml) was treated with a 2M solution of isopropylmagnesium chloride in diethyl ether (49 mmol, 2.2 eq.). The resulting mixture was stirred 1.5 h at −50° C., treated with acetaldehyde (1 ml, 18 mmol, 0.8 eq.), stirred 1 h at −40° C., and treated with 2M aqueous HCl solution. After extraction with MTBE (2×100 ml), washing of the organic phases with water (2×200 ml) and aqueous NaCl solution (200 ml), and drying (MgSO4), the crude product (4.4 g) was purified by flash chromatography (hexane/MTBE 6:1) to give 0.7 g of 1-cyclooct-2-enylethanol (26%).

reactant | 3-bromo-cyclooctene | 22 mmol, 4.2 g | BrC1C=CCCCCC1 | C8H13Br
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | acetaldehyde | 18 mmol, 1 ml, 0.8 eq. | C(C)=O | C2H4O
reactant | HCl | 2M | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | titanium(IV)isopropoxide | 24 mmol, 7.2 ml, 1.1 eq. | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | diethyl ether | 49 mmol, 2.2 eq. | C(C)OCC | C4H10O
product | 1-cyclooct-2-enylethanol | 0.7 g, 26% | C1(C=CCCCCC1)C(C)O | C10H18O
